US07517994B2
Step J: Preparation of 4-(2-fluoro-4-(methylthio)phenylamino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide:
To a solution of 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridazine-3-carboxamide (30 mg, 0.077 mmol) in EtOR/THF (2 mL/2 mL) was added 1 N aqueous HCl (0.15 mL, 0.15 mmol, 1 N aqueous solution) at room temperature. The reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was neutralized to pH 7, diluted with EtOAc (3×), washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was purified by silica gel flash column chromatography (100% EtOAc to 100% CH2Cl2 to 2.5 to 3 to 5% MeOH in CH2Cl2) to afford 6 mg (22%) of the desired product. MS APCI (−) m/z 367 (M−1) detected; 1H NMR (400 MHz, CD3OD) δ 7.35 (t, 1H), 7.18 (dd, 1H), 7.14 (dd, 1H), 5.92 (s, 1H), 4.06 (t, 2H), 3.79 (t, 2H), 3.74 (s, 3H), 2.51 (s, 3H).

reactant | 4-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridazine-3-carboxamide | 0.077 mmol, 30 mg | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1)=O)C)C(=O)NOCCOC=C | C17H19FN4O4S
reactant | HCl | 0.15 mmol, 1 N, 0.15 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-fluoro-4-(methylthio)phenylamino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide | 6 mg, 22% | FC1=C(C=CC(=C1)SC)NC=1C(=NN(C(C1)=O)C)C(=O)NOCCO | C15H17FN4O4S
